US05304644
(a) 2-(4-fluoro-2-nitrophenoxy)benzaldehyde
Sodium hydride (1.66 g) was added in portions to a stirred solution of salicylaldehyde (8.06 g) in N,N-dimethylformamide (100 mL) under nitrogen. To the resulting yellow solution was added 2,5-difluoro-1-nitrobenzene (10.0 g) and N,N-dimethylformamide (10 mL). The reaction was heated at 50° C. for 18 hours and evaporated under vacuum. The oily mixture was taken up in chloroform, and washed with 1 M NaOH, water, 1 M HCl, and brine, dried over magnesium sulfate, and evaporated under vacuum to an orange oil. The oil was treated with ethyl ether, cooled in an ice bath, and the precipitated product was collected by filtration to yield the title compound as white crystals. Mp: 94°-95° C.

reactant | Sodium hydride | 1.66 g | [H-].[Na+]
reactant | salicylaldehyde | 8.06 g | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | 2,5-difluoro-1-nitrobenzene | 10.0 g | FC1=C(C=C(C=C1)F)[N+](=O)[O-] | C6H3F2NO2
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 2-(4-fluoro-2-nitrophenoxy)benzaldehyde | FC1=CC(=C(OC2=C(C=O)C=CC=C2)C=C1)[N+](=O)[O-] | C13H8FNO4
